US09359362B2
Benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}methylcarbamate
Potassium carbonate (6.0 mg, 43 μmol, 1.6 eq.), 18-crown-6 (11.4 mg, 43 μmol, 1.5 eq.) and methyl iodide (6.1 mg, 53 μmol, 2.0 eq.) were added to a solution of benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate (15 mg, 27 μmol) in DMF (2 ml). The reaction mixture was stirred at RT for 12 h and then concentrated under reduced pressure and purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (13.3 mg, 86% of theory).

reactant | Potassium carbonate | 43 μmol, 6.0 mg, 1.6 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 43 μmol, 11.4 mg, 1.5 eq. | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | methyl iodide | 53 μmol, 6.1 mg, 2.0 eq. | CI | CH3I
reactant | benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate | 27 μmol, 15 mg | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(OCC2=CC=CC=C2)=O)C2=CC(=CC=C2)C(F)(F)F)C | C29H20F3N7O2
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}methylcarbamate | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)CNC(OCC2=CC=CC=C2)=O)C2=CC(=CC=C2)C(F)(F)F)C | C30H22F3N7O2
